US06555584B1
N-[2-(4-Phenylethynylbenzamido)benzenesulfonyl]decanamide
In a stream of nitrogen, 0.30 ml (1.46 mmol) of decanoyl chloride was added to an anhydrous tetrahydrofuran (10 ml) solution containing 500 mg (1.30 mmol) of 4-phenylethynyl-N-(2-sulfamoylphenyl)benzamide produced in Reference Example 10 and 320 mg (2.60 mmol) of 4-dimethylaminopyridine, the mixture was stirred at room temperature for 1 hour and then the solvent was evaporated under a reduced pressure. The resulting residue was dissolved in ethyl acetate, washed with water, a potassium hydrgensulfate aqueous solution and saturated brine in that order and dried over anhydrous sodium sulfate, and then the solvent was evaporated under a reduced pressure. The resulting residue was purified by a silica gel column chromatography to obtain 540 mg (yield: 76.4%) of the title compound.

reactant | decanoyl chloride | 1.46 mmol, 0.30 ml | C(CCCCCCCCC)(=O)Cl | C10H19ClO
reactant | 4-phenylethynyl-N-(2-sulfamoylphenyl)benzamide | 1.30 mmol, 500 mg | C1(=CC=CC=C1)C#CC1=CC=C(C(=O)NC2=C(C=CC=C2)S(N)(=O)=O)C=C1 | C21H16N2O3S
catalyst | 4-dimethylaminopyridine | 2.60 mmol, 320 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | N-[2-(4-Phenylethynylbenzamido)benzenesulfonyl]decanamide | 540 mg, yield: 76.4% | C1(=CC=CC=C1)C#CC1=CC=C(C(=O)NC2=C(C=CC=C2)S(=O)(=O)NC(CCCCCCCCC)=O)C=C1 | C31H34N2O4S
